US04319916
3-Benzoyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
To a 9 g. portion of 1-phenyl-4-(3-trifluoromethylphenyl)-1,3-butanedione was added 60 ml. of N,N-dimethylformamide dimethyl acetal. The reaction mixture was stirred under reflux for 16 hours, and was then evaporated to a dark brown oil under vacuum. The oil was dissolved in 150 ml. of tetrahydrofuran, and to it was added 10 ml. of 40% aqueous methylamine. The mixture was allowed to stand at ambient temperature for 18 hours, and was then evaporated under vacuum to an oil, which was taken up in diethyl ether, washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated under vacuum to an oil again. The oil was triturated under 1.2 liters of diisopropyl ether to obtain 2.4 g. of the desired product, which was identified by nmr analysis in CDCl3, showing characteristic peaks at δ7.2-8.0 (m, 11H, aromatic); 3.63 (s, 3H, N--CH3).

reactant | 1-phenyl-4-(3-trifluoromethylphenyl)-1,3-butanedione | C1(=CC=CC=C1)C(CC(CC1=CC(=CC=C1)C(F)(F)F)=O)=O | C17H13F3O2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | 3-Benzoyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | C(C1=CC=CC=C1)(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C20H14F3NO2
